US06579884B1
Synthesis of 8-((2,6-dimethylphenoxy)methyl)-2,3-dimethylimidazo[1,2-a]pyridine
To a suspension of potassium hydroxide (0.035 g, 0.62 mmol), 2,6-dimethylphenol (0.075 g, 0.62 mmol) and 18-crown-6 (0.035 g) in 1,2-dimethoxyethane was added 8-chloromethyl-2,3-dimethylimidazo[1,2-a]pyridine (0.1 g, 0.51 mmol) in 1,2-dimethyxyethane (3 ml). The reaction mixture was stirred for 1.5 h. at room temperature and sodium iodide (0.035 g, 0.23 mmol) was added. The mixture was stirred for 3.5 h. and N,N-dimethylformamide (1 ml) and methanol were added and the solids were isolated by filtration. The filtrate was evaporated under reduced pressure, the residue was solved in methylene chloride and washed with saturated sodium bicarbonate. The organic layer was separated, dried and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel using methylene chloride:methanol (100:3.5) as eluent to give 0.11 (78%) of the title compound.

reactant | potassium hydroxide | 0.62 mmol, 0.035 g | [OH-].[K+]
reactant | 2,6-dimethylphenol | 0.62 mmol, 0.075 g | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | 18-crown-6 | 0.035 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | 8-chloromethyl-2,3-dimethylimidazo[1,2-a]pyridine | 0.51 mmol, 0.1 g | ClCC=1C=2N(C=CC1)C(=C(N2)C)C | C10H11ClN2
reactant | sodium iodide | 0.23 mmol, 0.035 g | [I-].[Na+]
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
solvent | methanol | CO | CH4O
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 8-((2,6-dimethylphenoxy)methyl)-2,3-dimethylimidazo[1,2-a]pyridine | CC1=C(OCC=2C=3N(C=CC2)C(=C(N3)C)C)C(=CC=C1)C | C18H20N2O
